US08791123B2
Step B: Preparation of 5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-(4-hydroxy-4-methylcyclohexyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide (Diasteromer 1)
The minor isomer from Step A (45.1 mg, 0.197 mmol) was dissolved in DCM (1.0 mL) and 4N HCl in dioxane (492 μL, 1.97 mmol) was added. The reaction mixture was stirred at ambient temperature for 1 hour and was concentrated to afford 4-amino-1-methylcyclohexanol (minor isomer). The 4-amino-1-methylcyclohexanol was reacted with (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation C) according to the procedure outlined in Example 1 to provide the title product as a white solid (14 mg, 48% yield). MS (apci) m/z=456.1 (M+H).

reactant | 4-amino-1-methylcyclohexanol | NC1CCC(CC1)(O)C | C7H15NO
reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H14F2N4O2
product | 5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-(4-hydroxy-4-methylcyclohexyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 14 mg, 48% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)NC2CCC(CC2)(C)O | C24H27F2N5O2
